data/rdb19/train.csv
rxn,smiles,ea
3494,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:21])([H:9])[H:10])([H:6])([H:7])[H:8],23.26956997200614
1237,[C:14]([C:15]([C:16]([C:17]([H:27])([H:28])[H:29])([N:18]([C:19](=[O:20])[H:31])[H:30])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:14]([C:15]([C:16]([C:17]([H:27])([H:28])[H:29])([N:18]([C:19]=[O:20])[H:30])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[H:31])([H:11])[H:12])([H:8])([H:9])[H:10],19.691086638893463
2706,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([O:21][C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][C:24]([C:22]([O:21][C:20]([H:27])([H:28])[H:29])=[O:23])([C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34],35.23219409392914
4498,[C:13]([C:14]([C:15]([H:16])[H:17])([O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6])([H:7])([H:8])[H:9].[H:12][C:15]([C:14]([C:13]([H:22])([H:23])[H:24])([O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])[H:25])([H:16])[H:17],22.643431571603287
5227,[C:1]([C:2]([C:3]([H:4])[H:5])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])([N:25]([C:26](=[O:27])[H:38])[H:37])[H:33])([H:31])[H:32])([H:28])([H:29])[H:30]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:21]([H:28])([H:29])[H:30])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:22]([C:23]([C:24]([H:34])([H:35])[H:36])([N:25]([C:26](=[O:27])[H:38])[H:37])[H:33])([H:31])[H:32],58.93502158822957
833,[C:19]([O:20][C:21]([C:22]([H:30])([H:31])[H:32])([C:23]([H:24])[H:25])[H:29])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([O:20][C:21]([C:22]([H:30])([H:31])[H:32])=[C:23]([H:24])[H:25])([H:26])([H:27])[H:28].[C:1]([H:8])([H:9])([H:10])[H:29].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12],78.13614361552754
3853,[C:13]([C:14]([C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([H:8])([H:9])[C:15]([C:14]([C:13]([H:20])([H:21])[H:22])([H:23])[H:24])([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:5])([H:6])[H:7].[C:3](=[C:4]([H:11])[H:12])[H:10],71.28673393407371
5483,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([O:6][C:7](=[O:8])[C:9]([H:14])([H:15])[H:16])[H:13])([H:10])([H:11])[H:12]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[O:6][C:7](=[O:8])[C:9]([H:14])([H:15])[H:16])([H:10])([H:11])[H:12].[H:13][C:20]([N:19]([C:18](=[C:17]([H:22])[H:23])[H:24])[H:25])([O:21])[H:26],48.80326674919343
253,[C:1]([C:2]([H:5])([H:6])[O:7][O:8][C:9]([H:10])([C:11]([H:13])[H:14])[H:12])([H:3])([H:4])[H:15]>>[C:1]([C:2]([H:5])([H:6])[O:7][O:8][C:9]([H:10])([C:11]([H:13])([H:14])[H:15])[H:12])([H:3])[H:4],19.15714635257609
399,[C:4](=[C:5]([N:6]([C:7](=[O:8])[H:13])[H:12])[H:11])([H:9])[H:10].[O:1]([O:2])[H:3]>>[O:1][O:2][C:7]([N:6]([C:5](=[C:4]([H:9])[H:10])[H:11])[H:12])([O:8][H:3])[H:13],12.431705120689005
3542,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:22])([H:9])[H:10])([H:6])([H:7])[H:8],29.42424060223857
188,[C:12]([C:13]([C:14]([C:15]([H:25])([H:26])[H:27])([N:16]([C:17](=[O:18])[H:29])[H:28])[H:24])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:14]([C:15]([H:25])([H:26])[H:27])([N:16]([C:17](=[O:18])[H:29])[H:28])[H:24].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:13]([C:12]([H:19])([H:20])[H:21])([H:22])[H:23])([H:6])([H:7])[H:8],61.43993653450161
